US03988370
Proceeding in a manner similar to that described above in part A of Example 18, and using 4.5 g. of sodium, 38.4 g. of n-hexylguanidine sulfate, and 25.4 g. of n-hexyl isocyanate, there was obtained 11.1 g. of 1-n-hexylamidino-3-n-hexylurea having the structural formula ##EQU62## as a white crystalline solid which melted at 75-78°C. The solubility of this base in water at 25°C. was less than 0.25 per cent. In 95 per cent ethyl alcohol at 25°C. it was soluble to the extent of 5 per cent (w/v); a precipitate formed when the 5 per cent alcoholic solution was diluted with four volumes of water.

reactant | sodium | [Na] | Na
reactant | n-hexylguanidine sulfate | S(=O)(=O)(O)O.C(CCCCC)NC(=N)N
product | n-hexyl isocyanate | C(CCCCC)N=C=O | C7H13NO
